US03944675
N-Benzyl-1-adamantanecarboxamide
Dissolve 2.0 g. of (10 mmoles) of 1-adamantane carboxylic acid chloride in 20 ml. of ethyl ether and add to 3.0 ml. (28.0 mmoles) of benzylamine and repeat the process of Example 11 to obtain the product of this example, m.p. 170°-172°C.

reactant | 1-adamantane carboxylic acid chloride | 10 mmoles | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | benzylamine | 28.0 mmoles | C(C1=CC=CC=C1)N | C7H9N
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-Benzyl-1-adamantanecarboxamide | C(C1=CC=CC=C1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C18H23NO
